US08802659B2
methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-methylnaphthalen-2-yl)methyl)azetidine-3-carboxylate
A flask charged with compound methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-iodonaphthalen-2-yl)methyl)azetidine-3-carboxylate (300 mg, 0.56 mmol), methylboronic acid (66 mg, 1.1 mmol, 2.0 eq), 2 M aq K2CO3 (5 mL, 3.0 equiv) and [1,1-bis(diphenylphosphino) ferroene]dichloropalladium (II) complex with dichloromethane (1:1) (45 mg, 0.05 mmol, 0.1 equiv) was flushed with nitrogen. 1,4-Dioxane (20 mL) was added and the reaction was stirred at 90° C. for 5 h. The solution was cooled to room temperature. The solvent was removed and the residue was purified by column chromatography (PE/EA=1:1) to give compound the title compound as a white solid (80 mg, 33%). ESI-MS (M+H+): 424.3. 1H NMR (400 MHz, CDCl3) δ: 7.88 (d, 1H), 7.64-7.61 (m, 2H), 7.40 (dd, 1H), 7.23 (d, 1H), 4.10-4.08 (m, 1H), 3.79 (s, 2H), 3.74 (s, 3H), 3.59-3.56 (m, 2H), 3.39-3.36 (m, 3H), 2.53 (s, 3H), 2.20-2.17 (m, 2H), 1.86-1.83 (m, 2H), 1.48-1.43 (m, 2H), 1.10-1.26 (m, 3H), 0.86 (s, 9H)

reactant | methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-iodonaphthalen-2-yl)methyl)azetidine-3-carboxylate | 0.56 mmol, 300 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC)I | C26H34INO3
reactant | methylboronic acid | 1.1 mmol, 66 mg, 2.0 eq | CB(O)O | CH5BO2
reactant | K2CO3 | 2 M, 5 mL, 3.0 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | dichloromethane | 0.05 mmol, 45 mg, 0.1 equiv | ClCCl | CH2Cl2
product | methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-methylnaphthalen-2-yl)methyl)azetidine-3-carboxylate | 80 mg, 33% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC)C | C27H37NO3
